US04039551
A stirred solution of N,N-dimethylhydroxylamine (3.67 g., 0.06 mole) in dry dimethylformamide (50 ml. is cooled in an ice bath, under nitrogen, and treated with a 57% mineral oil suspension of sodium hydride (0.84 g., 0.02 mole). The mixture is kept at ambient temperature for 1 hour (a precipitate formed) and then cooled in an ice bath and treated with 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine (6.86 g., 0.02 mole). The mixture is kept at ambient temperature for 2 hours and concentrated in vacuo. Last traces of dimethylformamide are removed from the residue by the successive addition and distillation of xylene, toluene, and benzene. The resulting material is chromatographed on silica gel (250 g.) with methanol. The product thus obtained is crystallized from methanol-ethyl acetate (following activated charcoal treatment) to give 8-chloro-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine, N1 -oxide, hydrate in three crops: 3.377 g. of melting point 160.5°-162.5° C; 1.145 g. of melting point 160°-162° C.; and 0.785 g. of melting point 160°-162° C. The analytical sample had a melting point of 157.5°-158.5° C. with decomposition.

reactant | N,N-dimethylhydroxylamine | 0.06 mole, 3.67 g | CN(O)C | C2H7NO
reactant | sodium hydride | 0.02 mole, 0.84 g | [H-].[Na+]
reactant | 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | 0.02 mole, 6.86 g | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chloro-1-[(dimethylamino)methyl]-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CN(C)C)C3=CC=CC=C3)C1 | C19H18ClN5
